US04556666
A solution of 8.97 g of potassium tert.-butylate in 50 ml of tetrahydrofuran was slowly added at -60° C. to a solution of 5.6 of (1R,5S) 6,6-dimethyl-4(R)-hydroxy-3-oxa-bicyclo[3,0,1]hexane-2-one, 5.28 g of methyl methylthioacetate and 75 ml of tetrahydrofuran and the mixture was stirred at -60° C. for one hour and was admixed with saturated aqueous monosodium phosphate. The mixture was extracted with ethyl acetate and the organic phase was evaported to dryness under reduced pressure. The residue was taken up in benzene and 100 mg of p-toluene sulfonic acid were added thereto. The mixture was refluxed for 90 minutes and water was removed by azeotropic distillation. 12 ml of triethylamine were added to the mixture which was then refluxed for 3 hours and evaporated to dryness under reduced pressure. The residue was chromatographed over silica gel and was eluted with a 1-1 cyclohexane-ethyl acetate mixture to obtain 6.3 g of (1R,cis,ΔZ) 2,2-dimethyl-3-[2-methylthio-2-methoxycarbonyl-ethenyl]-cyclopropane-carboxylic acid containing 10% of ΔE isomer according to its NMR spectrum.

reactant | (1R,5S) 6,6-dimethyl-4(R)-hydroxy-3-oxa-bicyclo[3,0,1]hexane-2-one | CC1([C@@H]2C(O[C@H]([C@@H]21)O)=O)C | C7H10O3
reactant | methyl methylthioacetate | 5.28 g | CCC(=S)OC | C4H8OS
reactant | monosodium phosphate | P(=O)([O-])(O)O.[Na+]
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | 2,2-dimethyl-3-[2-methylthio-2-methoxycarbonyl-ethenyl]-cyclopropane-carboxylic acid | 10% | CC1(C(C1C=C(C(=O)OC)SC)C(=O)O)C | C11H16O4S
